US06963002B2
Preparation of 4,4-dimethyl-6-ethynylthiochroman
In a 250 ml 4-necked round bottom flask fitted with a mechanical stirrer and reflux condenser, water (41.3 ml) and sodium hydroxide (5.22 g, 0.1305M) are added and heated to a temperature in the range of from about 80° C. to about 90° C. The reaction mixture is stirred, and a solution of 3-[4,4-dimethylthiochroman-6-yl]-3-chloro-2-propene-1-al (3.0 gm, 0.0113 M) is added dropwise in 1,4-dioxane (52.2 ml) under vigorous stirring. The reaction mixture is maintained at a temperature in the range of from about 80° C. to about 90° C. for about 2 hours. After completion of the reaction as determined by TLC, the solvents are distilled off and the product is extracted with ether (15 ml×3). The ether layer is washed with brine (15 ml×3). The organic layer is dried over sodium sulfate, and the solvent is distilled off to get an oily residue. The resulting crude oil is distilled under high vacuum and the vapors are collected at a temperature of about 126° C./0.2 mm as the main product. The main fraction appears as red viscous oil, which upon standing crystallized. Net wt of about 2.00 g, yield of about 87.68%; m.p. in the range of from about 69° C. to about 72° C., purity of about 98% (HPLC). The IR (neat) shows the following absorptions: 3200 cm−1 (C—H-str), 2950 cm−1 (—C═C—H str), 2100 cm−1 (—C═C—). The 1H-NMR (CDCl3), TMS as internal standard shows the following signals δ 1.35 (6H,s), 1.92-1.98 (2H,m), 3.02-3.08 (3H,m), 7.13 (1H,d 8.6 Hz), 7.58 (1H,dd,J 8.6 Hz,2 Hz), 7.99 (1H,d,J 2 Hz). The CI/MS shows m/z 202 (M+).

reactant | water | 41.3 ml | O | H2O
reactant | sodium hydroxide | 0.1305M, 5.22 g | [OH-].[Na+]
reactant | 3-[4,4-dimethylthiochroman-6-yl]-3-chloro-2-propene-1-al | 0.0113 M, 3.0 gm | CC1(CCSC2=CC=C(C=C12)C(=CC=O)Cl)C | C14H15ClOS
solvent | 1,4-dioxane | 52.2 ml | O1CCOCC1 | C4H8O2
product | 4,4-dimethyl-6-ethynylthiochroman | yield of about 87.68% | CC1(CCSC2=CC=C(C=C12)C#C)C | C13H14S
